US04005217
N-(2-nitrophenyl)-2-dimethylaminoacetamide (13.8 g), platinum oxide (0.2 g) and ethanol (100 ml) were mixed together and shaken in an atmosphere of hydrogen at atmospheric pressure and laboratory temperature until absorption of hydrogen ceased (4.5 litres of hydrogen were absorbed in 2hours). The mixture was then filtered and the ethanol evaporated off under reduced pressure. The solid residue so obtained was recrystallised from cyclohexane to give N-(2-aminophenyl)-2-dimethylaminoacetamide (9.3 g), m.p. 121°-123° C.

reactant | N-(2-nitrophenyl)-2-dimethylaminoacetamide | 13.8 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(CN(C)C)=O | C10H13N3O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.2 g | [Pt]=O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2-aminophenyl)-2-dimethylaminoacetamide | 9.3 g | NC1=C(C=CC=C1)NC(CN(C)C)=O | C10H15N3O
